* C:\Users\leone\OneDrive\Desktop\Personal_Projects\FarnsworthFusor\PowerSupply\LTSpice\LLC.asc
* Generated by LTspice 26.0.2 for Windows.
L2 0 out {baseL*900}
L1 N001 N003 {baseL} Rser=0
L4 in N001 800µ Rser=1m
C13 N003 N002 250n
V1 in N002 AC 1
R3 N002 0 1G
R1 out 0 50e3
* LLC and Transformer
K1 L1 L2 1
.param Cmult=1n baseL=2.63m
* Params
.ac dec 1000 100 100Meg
.backanno
.end
